US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-7-yl amine hydrochloride
4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-nitro-quinazoline hydrochloride (2.16 g, 5.90 mmol) was slurried in 250 mL of ethanol containing 0.21 g of 10% paladium on carbon and treated with ammonium formate (1.68 g, 26.6 mmol). After 16 hours the mixture was filtered through celite and evaporated in vacuo to a residue. This was dissolved in chloroform, filtered and washed with sodium bicarbonate and brine then dried with magnesium sulfate, filtered and evaporated in vacuo to give crude product which was recrystallized from 50% aqueous ethanol. The solid was dissolved in methanol containing anhydrous hydrogen chloride and poured into ether to yield the title compound after filtration and drying in vacuo; 0.687 g (35%) M.P. 282°-283° C.

reactant | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-7-nitro-quinazoline hydrochloride | 5.90 mmol, 2.16 g | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)[N+](=O)[O-]
reactant | ammonium formate | 26.6 mmol, 1.68 g | C(=O)[O-].[NH4+]
solvent | ethanol | 250 mL, 0.21 g | C(C)O | C2H6O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-7-yl amine hydrochloride | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)N | InChI=1S/C16H13ClN4.ClH/c17-11-2-1-10-5-6-21(15(10)7-11)16-13-4-3-12(18)8-14(13)19-9-20-16;/h1-4,7-9H,5-6,18H2;1H
